US07078428B2
d) 2-(2,2,2-Trifluoro-ethyl)-5-trifluoromethyl-isoindole-1,3-dione
5.0 g of 5-trifluoromethyl-isobenzofuran-1,3-dione were dissolved using 50 ml of toluene(anhydrous) and 4.6 g of 2,2,2-trifluoro-ethylamine added. The mixture was left at ambient temperature for 16 h. 50 mg of toluene-4-sulfonic acid were then added and the mixture was refluxed for 5 h. 200 ml of EA were added and the mixture was washed twice using 50 ml of a 10% aqueous Na2CO3-solution. The organic layer was dried over MgSO4 and the solvent was removed in vacuo to yield 5.5 g of a viscous oil (Rf (DIP)=0.57; MS (EI): 298 (M+1)+).

reactant | 5-trifluoromethyl-isobenzofuran-1,3-dione | 5.0 g | FC(C=1C=C2C(OC(C2=CC1)=O)=O)(F)F | C9H3F3O3
reactant | 2,2,2-trifluoro-ethylamine | 4.6 g | FC(CN)(F)F | C2H4F3N
catalyst | toluene-4-sulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 2-(2,2,2-Trifluoro-ethyl)-5-trifluoromethyl-isoindole-1,3-dione | 5.5 g | FC(CN1C(C2=CC=C(C=C2C1=O)C(F)(F)F)=O)(F)F | C11H5F6NO2
